US06225306B1
(11aR)-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5,11-Dione
The same procedures used in the method B in Reference Example 19 were repeated except for the use of isatoic anhydride and D-proline to form the title compound. Yield 78.9%.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | D-proline | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
product | (11aR)-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5,11-Dione | Yield 78.9% | C1CCN2[C@H]1C(NC1=C(C2=O)C=CC=C1)=O | C12H12N2O2
